US07018988B2
(2S,4EZ)-4-(tert-butoxyimino)-N-cyclopropyl-1-(phenoxyacetyl)-2pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid, phenoxyacetyl chloride, and cyclopropylamine the title compound was obtained in 73% purity by LC/MS. MS(ESI+): m/z=374.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC(C)(C)C)C(=O)O | C14H24N2O5
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2S,4EZ)-4-(tert-butoxyimino)-N-cyclopropyl-1-(phenoxyacetyl)-2pyrrolidinecarboxamide | C(C)(C)(C)ON=C1C[C@H](N(C1)C(COC1=CC=CC=C1)=O)C(=O)NC1CC1 | C20H27N3O4
